US08211882B2
5-Chloro-2-hydroxy-N-(3-ethylphenyl)benzamide (Compound 12).
This material was prepared according to the method of Example 1 using 5-chlorosalicylic acid and 3-ethylaniline, with reagents and solvents employed in similar molar ratios. 1HNMR (500 MHz, DMSO-d6): δ 1.20 (t, 3H), 2.62 (q, 1H), 7.02 (m, 2H), 7.28 (m, 1H), 7.47 (m, 1H), 7.54 (m, 1H), 7.56 (br s, 1H), 7.90 (m, 1H), 10.34 (s, 1H).

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-ethylaniline | C(C)C=1C=C(N)C=CC1 | C8H11N
product | 5-Chloro-2-hydroxy-N-(3-ethylphenyl)benzamide | ClC=1C=CC(=C(C(=O)NC2=CC(=CC=C2)CC)C1)O | C15H14ClNO2
